US06399254B1
166 g of a starting substance, diglycerin, 32 g of a catalyst, potassium hydroxide, 9,290 g of propylene oxide, and 1,460 g of butylene oxide were put into a 15-L autoclave, and reacted at 110° C. for 16 hours, and then neutralized, desalted and purified to obtain 9,900 g of a tetra-functional propylene oxide-butylene oxide copolymer. This polymer had a molecular weight of 10,900 (as calculated from its hydroxyl value).

reactant | diglycerin | C(C(COCC(CO)O)O)O | C6H14O5
reactant | potassium hydroxide | [OH-].[K+]
reactant | propylene oxide | 9,290 g | C1C(C)O1 | C3H6O
solvent | butylene oxide | 1,460 g | C1CCCO1 | C4H8O
product | propylene oxide butylene oxide | 9,900 g | C1C(C)O1.C1CCCO1 | InChI=1S/C4H8O.C3H6O/c1-2-4-5-3-1;1-3-2-4-3/h1-4H2;3H,2H2,1H3
